US08802673B2
To a stirred suspension of sodium hydride (765 mg, 60% dispersion in mineral oil) in dry diethyl ether (20 ml) under an argon atmosphere at 0° C. was added dropwise a solution of (RS)-1-(5-bromo-pyridin-2-yl)-2,2,2-trifluoro-ethanol (3.06 g) in diethyl ether (10 ml) and the resulting mixture was stirred at room temperature for 30 min. Trifluoromethanesulfonyl chloride (1.4 ml) was added and stirring was continued for a further 15 min at room temperature. The reaction mixture was quenched by addition of 10% aq. sodium bicarbonate solution and the mixture was extracted with diethyl ether. The phases were separated and the organic phase was washed with saturared brine. The organic phase was separated, dried over sodium sulphate, and concentrated in vacuo. The reside was purified by Kugelrohr distillation (60° C. oven temperature, 0.3 mbar) to give trifluoro-methanesulfonic acid (RS)-1-(5-bromo-pyridin-2-yl)-2,2,2-trifluoro-ethyl ester (3.6 g, 78%) as a white solid. MS (EI): 389 ([{81Br}M]+), 387 ([{79Br}M]+), 320 ([{81Br}M-CF3]+), 318 ([{79Br}M-CF3]+), 256 ([{81Br}M-CF3—SO2]+), 254 ([{79Br}M-CF3—SO2]+), 240 ([{81Br}M-OSO2CF3]+), 238 ([{79Br}M-OSO2CF3]).

reactant | sodium hydride | 765 mg | [H-].[Na+]
reactant | (RS)-1-(5-bromo-pyridin-2-yl)-2,2,2-trifluoro-ethanol | 3.06 g | BrC=1C=CC(=NC1)C(C(F)(F)F)O | C7H5BrF3NO
reactant | Trifluoromethanesulfonyl chloride | 1.4 ml | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | trifluoro-methanesulfonic acid (RS)-1-(5-bromo-pyridin-2-yl)-2,2,2-trifluoro-ethyl ester | 3.6 g, 78% | BrC=1C=CC(=NC1)C(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C8H4BrF6NO3S
